US04435405
A solution of 2-(trans-2-carboxycyclopropylthio)-3-phenylquinoline (3.26 g.), diphenylphosphoryl azide (2.21 ml.) and triethylamine (1.43 ml.) in dry toluene (65 ml.) was stirred under argon for 2 hr. at 90°. 2-(Trimethylsilyl)ethanol (1.53 ml.) was added, and the reaction mixture was stirred for a further 16 hr. at 90°. The mixture was cooled to ambient temperature, washed with water (2×20 ml.), dried (Na2SO4), and the toluene removed under reduced pressure. The residual brown oil (5.5 g.) was purified on a basic alumina column (200 gm. Brockmann Grade III) by elution with 20% v/v chloroform in petroleum ether to give 2-{trans-2-[2-(trimethylsilyl)ethoxycarbonylamino]cyclopropylthio}-3-phenylquinoline as a light yellow oil, which was characterised by mass spectrometry, molecular ion equals 436, and by NMR (CDCl3 solution, 90 MHz) multiplet 2.5 δ (2H, cyclopropane methine).

reactant | 2-(trans-2-carboxycyclopropylthio)-3-phenylquinoline | 3.26 g | C(=O)(O)[C@H]1[C@@H](C1)SC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1 | C19H15NO2S
reactant | diphenylphosphoryl azide | 2.21 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.43 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(Trimethylsilyl)ethanol | 1.53 ml | C[Si](CCO)(C)C | C5H14OSi
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{trans-2-[2-(trimethylsilyl)ethoxycarbonylamino]cyclopropylthio}-3-phenylquinoline | C[Si](CCOC(=O)N[C@H]1[C@@H](C1)SC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1)(C)C | C24H28N2O2SSi
